US04894381
9.2 g (0.23 mol) of sodium hydroxide are added to a mixture of 39.1 g (0.21 mol) of 1-[1-(2-hydroxyphenyl)-vinyl]-imidazole and 200 ml of methanol at room temperature, with stirring. When the addition has ended, the mixture is stirred at 50° C. for a further 30 minutes and is then concentrated under reduced pressure by stripping off the solvent. The solid residue which remains is taken up in 200 ml of dimethylformamide. 24.9 g (0.21 mol) of 1-chloro-2,3-dimethyl-but-2-ene are added to the solution formed at a temperature of 25° C., with stirring. The reaction mixture is stirred at 20° C. for a further 12 hours and then worked up by being concentrated by stripping off the diluent. The residue obtained is chromatographed over silica gel. 35.5 g (63% of theory) of 1-[1-(2-(2,3-dimethyl-but-2-en-1-yl-oxy)phenyl)-vinyl]-imidazole in the form of an oil are obtained in this manner.

reactant | sodium hydroxide | 0.23 mol, 9.2 g | [OH-].[Na+]
reactant | 1-[1-(2-hydroxyphenyl)-vinyl]-imidazole | 0.21 mol, 39.1 g | OC1=C(C=CC=C1)C(=C)N1C=NC=C1 | C11H10N2O
reactant | 1-chloro-2,3-dimethyl-but-2-ene | 0.21 mol, 24.9 g | ClCC(=C(C)C)C | C6H11Cl
solvent | methanol | 200 ml | CO | CH4O
product | 1-[1-(2-(2,3-dimethyl-but-2-en-1-yl-oxy)phenyl)-vinyl]-imidazole | 35.5 g, 63% | CC(COC1=C(C=CC=C1)C(=C)N1C=NC=C1)=C(C)C | C17H20N2O
